US04552956
Following the procedure of Example 1, 15.2 g of the above enamine in 150 ml of methanol were reduced with 3.78 g of sodium borohydride in 150 ml of ethanol in the presence of 5.14 ml of glacial acetic acid. The product of the reaction, trans-(±)-4-methyl-7-methoxy-3,4,4a,5,8,8a-hexahydro-2H-[1,4]benzoxazine, was hydrolysed by treatment with acid as in Example 1 to yield trans-(±)-4-methyl-3,4,4a,5,6,7,8,8a-octahydro-2H-[1,4]benzoxazin-7-one. The product was purified from a highly colored impurity by treatment with sodium bisulfite as in Example 1.

reactant | sodium borohydride | 3.78 g | [BH4-].[Na+]
reactant | acetic acid | 5.14 ml | C(C)(=O)O | C2H4O2
reactant | trans-(±)-4-methyl-7-methoxy-3,4,4a,5,8,8a-hexahydro-2H-[1,4]benzoxazine | CN1CCO[C@H]2[C@H]1CC=C(C2)OC | C10H17NO2
solvent | methanol | 150 ml | CO | CH4O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | trans-(±)-4-methyl-3,4,4a,5,6,7,8,8a-octahydro-2H-[1,4]benzoxazin-7-one | CN1CCO[C@H]2[C@H]1CCC(C2)=O | C9H15NO2
